US04267176
A mixture of 4-nitrobenzyl 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer)(1.43 g.), 10% palladium on carbon (0.8 g.), methanol (30 ml.) and tetrahydrofuran (60 ml.) was subjected to catalytic reduction at ambient temperature under ordinary pressure for 4 hours. After removing the catalyst by filtration, the filtrate was concentrated under reduced pressure. An aqueous solution of sodium bicarbonate and ethyl acetate were added to the residue, and the aqueous layer was separated. The aqueous layer was adjusted to pH 6, washed with ethyl acetate, and then adjusted to pH 1 to 2. The aqueous layer was extracted with ethyl acetate. The ethyl acetate extract was washed with an aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. Diethyl ether (30 ml.) was added to the residue, stirred for one hour, and then the precipitates were collected by filtration to give 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer)(680 mg.), brownish yellow powder, mp. 200° to 204° C. (dec.).

reactant | 4-nitrobenzyl 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 1.43 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C23H19ClN6O8S
reactant | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 680 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOC | C16H14ClN5O6S
